US09388197B2
A.2.6.1. Synthesis of 2,4-dichloro-6-(methoxymethyl)benzonitrile
To a suspension of 2-(bromomethyl)-4,6-dichlorobenzonitrile (1.04 mmol) (A.2.2.1.) in 2.5 mL MeOH was added a solution of NaOMe (1.27 mmol, 0.5M in MeOH). The reaction mixture was heated to 50° C. for 1 h. The mixture was conc. in vacuo, redissolved in EtOAc and it was then washed twice with an aq. soln. of KHSO4, twice with a sat. aq. NaHCO3 soln. and once with brine. The org. layer was dried over MgSO4 and conc. in vacuo to give the desired product as orange oil.

reactant | 2-(bromomethyl)-4,6-dichlorobenzonitrile | 1.04 mmol | BrCC1=C(C#N)C(=CC(=C1)Cl)Cl | C8H4BrCl2N
reactant | NaOMe | 1.27 mmol, 0.5M | C[O-].[Na+]
solvent | MeOH | 2.5 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,4-dichloro-6-(methoxymethyl)benzonitrile | ClC1=C(C#N)C(=CC(=C1)Cl)COC | C9H7Cl2NO
